US04182773
2-(5-acetoxypentyl)-3-oxo-cyclopentane-carbonitrile
98 g [1.5 mols] of potassium cyanide were suspended in 600 ml of methanol, and 105 g [0.5 mol] of 2-(5-acetoxypentyl)- cyclopent-2-ene-1-one, dissolved in 45 ml of acetic acid, were added dropwise within 2.5 hours. After 20 hours, agitation at room temperature, the suspension was dropped into ice-water with agitation, extracted thrice with diethyl ether, the ether phases were united, washed with water, dried over sodium sulfate and concentrated. The oily residue was stirred for 5 hours at room temperature in 200 ml of pyridine and 30 ml of acetic anhydride, the solvent was then distilled off under reduced pressure and the residue was distilled in a bulb tube. 102 g having a boiling point of 180° C. at 0.4 mm Hg were obtained; IR spectrum: 2220 cm-1.

reactant | potassium cyanide | 1.5 mols, 98 g | [C-]#N.[K+]
reactant | 2-(5-acetoxypentyl)- cyclopent-2-ene-1-one | 0.5 mol, 105 g | C(C)(=O)OCCCCCC=1C(CCC1)=O | C12H18O3
solvent | methanol | 600 ml | CO | CH4O
solvent | acetic acid | 45 ml | C(C)(=O)O | C2H4O2
product | 2-(5-acetoxypentyl)-3-oxo-cyclopentane-carbonitrile | C(C)(=O)OCCCCCC1C(CCC1=O)C#N | C13H19NO3
